US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.375 g, 1.637 mmol) in N,N-dimethylformamide (15 mL) was added Cs2CO3 (1.333 g, 4.09 mmol) and 2-isothiocyanato-5-(methylthio)pyrazine (0.3 g, 1.637 mmol),. The suspension was stirred at room temperature for 30 minutes. N,N′-diisopropylcarbodiimide (0.765 mL, 4.9 mmol) was then added and the mixture was continued to stir at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% 9:1 methanol:ammonium hydroxide-ethyl acetate) to afford (R)—N-(5-(methylthio)pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.014 g, 0.04 mmol, 16% yield) as a yellow solid. M.P. 155-60° C. 1H NMR (400 MHz, MeOD) δ ppm 8.13 (1 H, d), 8.06 (1 H, s), 3.96 (1 H, d), 3.66 (1 H, d), 3.20 (1 H, d), 3.08 (1 H, d), 2.87-2.96 (2 H, m), 2.72-2.82 (2 H, m), 2.52 (3 H, s), 2.00-2.19 (2 H, m), 1.51-1.81 (3 H, m). LCMS R.T.=1.01; [M+H]+=306.12.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 1.637 mmol, 0.375 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 4.09 mmol, 1.333 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-isothiocyanato-5-(methylthio)pyrazine | 1.637 mmol, 0.3 g | N(=C=S)C1=NC=C(N=C1)SC | C6H5N3S2
reactant | N,N′-diisopropylcarbodiimide | 4.9 mmol, 0.765 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)—N-(5-(methylthio)pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.04 mmol, 0.014 g, 16% yield | CSC=1N=CC(=NC1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C14H19N5OS
